US07754721B2
To a mixture of Pd(OAc)2 (0.054 g, 0.2 mmol), NaOtBu (0.64 g, 6.6 mmol) in xylene (7.0 mL) in a screw-capped tube was added tBu3P (0.049 g, 0.2 mmol). After 10 minutes a solution of 5-bromo-1-(tert-butyl-dimethyl-silanyl)-1H-indole (1.30 g, 4.4 mmol) in xylene (7.0 mL) and a solution of 3-benzyl-piperazine-1-carboxylic acid tert-butyl ester (1.34 g, 4.8 mmol) in xylene (8.0 mL) were added. The mixture was heated to 80° C. for 30 minutes, then cooled to room temperature. The reaction mixture was taken up in ethyl acetate, filtered through a pad of celite, and concentrated under reduced pressure. Purification via flash chromatography (gradient: 2% to 20% EtOAc in hexane) afforded 3-Benzyl-4-[1-(tert-butyl-dimethyl-silanyl)-1H-indol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester (1.65 g, 74%) as a pale yellow solid; MS (M+H)=506.

reactant | NaOtBu | 6.6 mmol, 0.64 g | CC(C)(C)[O-].[Na+]
reactant | 5-bromo-1-(tert-butyl-dimethyl-silanyl)-1H-indole | 4.4 mmol, 1.30 g | BrC=1C=C2C=CN(C2=CC1)[Si](C)(C)C(C)(C)C | C14H20BrNSi
reactant | 3-benzyl-piperazine-1-carboxylic acid tert-butyl ester | 4.8 mmol, 1.34 g | C(C)(C)(C)OC(=O)N1CC(NCC1)CC1=CC=CC=C1 | C16H24N2O2
solvent | xylene | 7.0 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 7.0 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 8.0 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 0.2 mmol, 0.054 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | tBu3P | 0.2 mmol, 0.049 g | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
product | 3-Benzyl-4-[1-(tert-butyl-dimethyl-silanyl)-1H-indol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester | 1.65 g, 74% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1C=C2C=CN(C2=CC1)[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C30H43N3O2Si
